US08022205B2
[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-(4-nitro-phenyl)-methanone
Using 4-nitro-benzoic acid (320 mg) instead of 3-nitro-benzoic acid, and 2-piperazin-1-yl-ethanol (282 μl) instead of 1-ethyl-piperazine, in the same manner as Step A in Example 1-D-101, the desired compound was obtained as a crude product.

reactant | 4-nitro-benzoic acid | 320 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 2-piperazin-1-yl-ethanol | 282 μl | N1(CCNCC1)CCO | C6H14N2O
product | [4-(2-Hydroxy-ethyl)-piperazin-1-yl]-(4-nitro-phenyl)-methanone | OCCN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O4
